US06451839B1
Part B. Preparation of 2-phenyl-phenylmethyl amine
N-(2-Phenyl-phenylmethyl)-phthalimide (6.5 g) in 25 cc of hydrazine hydrate were stirred at room temperature overnight. Ice water was added and the solid separated by filtration. The filtrate was salted out with brine and extracted with ethyl acetate. The ethyl acetate extract was washed with water, dried over magnesium sulfate, filtered and concentrated to dryness to afford 3 g of subtitled product as an oil.

reactant | N-(2-Phenyl-phenylmethyl)-phthalimide | 6.5 g | C1(=CC=CC=C1)C1=C(C=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C21H15NO2
solvent | hydrazine hydrate | 25 cc | O.NN
product | 2-phenyl-phenylmethyl amine | 3 g | C1(=CC=CC=C1)C1=C(C=CC=C1)CN | C13H13N
